US05211738
(1) Synthesis of N-[2-(N-methoxyimino)ethyl]phthalimide
0.560 g (2.96 mmol) of N-(2-oxoethyl)phthalimide was dissolved in 20 ml of ethanol and to the solution was added 0.330 g (3.95 mmol) of O-methylhydroxylamine hydrochloride. To this suspension was added 10 ml of 0.35M aqueous sodium carbonate solution, followed by being stirred at room temperature for 3 days. The reaction mixture was poured into 100 ml of water and extracted with chloroform (20 ml×3), and the combined organic layer was dried over magnesium sulfate. Chloroform was distilled off and the residual solids were washed with petroleum ether to give 0.291 g (yield 45%) of the titled compound as colorless crystals.

reactant | N-(2-oxoethyl)phthalimide | 2.96 mmol, 0.560 g | O=CCN1C(C=2C(C1=O)=CC=CC2)=O | C10H7NO3
reactant | O-methylhydroxylamine hydrochloride | 3.95 mmol, 0.330 g | Cl.CON
reactant | sodium carbonate | 0.35M, 10 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 100 ml | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N-[2-(N-methoxyimino)ethyl]phthalimide | 0.291 g, yield 45% | CON=CCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10N2O3
